US05827849
d) 1-(4-hydroxyphenyl)-3- [2-(ethoxycarbonyl)ethyl]-imidazolidin-2-one
Prepared from 1-(4-benzyloxyphenyl)-3-[2-(ethoxycarbonyl)ethyl]-3H-imidazol-2-one by hydrogenation in the presence of palladium on charcoal in ethanol at 40° C. and a hydrogen pressure of 50 psi. Rf value: 0.20 (silica gel; methylene chloride/methanol=100:2)

reactant | 1-(4-benzyloxyphenyl)-3-[2-(ethoxycarbonyl)ethyl]-3H-imidazol-2-one | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=C1)CCC(=O)OCC)=O | C21H22N2O4
reactant | hydrogen | [H][H] | H2
reactant | methylene chloride methanol | C(Cl)Cl.CO
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 1-(4-hydroxyphenyl)-3- [2-(ethoxycarbonyl)ethyl]-imidazolidin-2-one | OC1=CC=C(C=C1)N1C(N(CC1)CCC(=O)OCC)=O | C14H18N2O4
